Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
High-grade stensosis of Left vein graft
 
Major Surgical or Invasive Procedure:
___ Angio: Aplasty Lt EIA, ___, mid ___, distal ___ 
___ into BK pop (runoff via AT into DP, collateral from 
peroneal into ___

 
History of Present Illness:
This is a ___ female with a history of diabetes,
hypertension, CHF, CAD, s/p CABG, s/p TIA, and CRI.  She also 
has
a history of PVD and is s/p left lower extremity bypass in 
___
with a redo on ___ left femoral to below-knee popliteal 
artery
bypass graft with a non-reversible basilic and non-reversible
cephalic veins from the right arm.  Her recovery was complicated
by pulmonary edema due to CHF and a small MI.  
The patient was most recently evaluated by Dr. ___ as an
outpatient for concerning,high-grade stensosis of Left vein 
graft
and felt that her graft appeared
patent on exam and that he could feel it in the thigh.  He
further noted that when her graft was occluded in the past,
she had profound rubor and less pain.  It was felt by Dr. ___ upon review of her films, she is a better operative
candidate from a durability standpoint, but she really wanted
another attempted angioplasty; thus, the patient is being
admitted tonight for pre-hydration for the angio suite tomorrow
for angioplasty.  The patient is of the understanding that
although such a course of action would be reasonable, it may not
be a long-term solution.

In terms of symptoms, she reports leg cramps in the calf of the
right leg only.  She develops the discomfort after a block and
must stop to alleviate the pain.  She denies any discomfort in
the left leg. 
In terms of her cardiac status she denies chest pain, shortness
of breath, dizziness, syncope, or palpitations.

 
Past Medical History:
PSHx/ PMHx:  PVD,s/p left femoral to above knee popliteal bypass
in ___
with redo s/p left femoral to below-knee popliteal artery bypass
graft ___
Diabetes
CAD,s/p MI ___ and post op in ___, s/p CABG x 3(LIMA-LAD,
SVG-PDA, SVG-OM) in ___
Hypertension
H/O tendonitis
S/P TIAin ___
S/P remote bilateral CEA
Hyperlipidemia
Hypothyroidism
Hyperkalemia
Chronic renal insufficiency
Atrial fibrillation post operatively in ___ without 
recurrence
Retinopathy
H/O cataracts, s/p bilateral lens implants
Arthritis
Depression

 
Social History:
___
Family History:
non contrib
 
Physical Exam:
VS:98.9 HR:77 BP: 125/55 RR: 20
Neuro: A+Ox3, NAD no depressed affect at this time
CV: RRR, ___ SEM heard
Resp: CTAB
Abd: SNTND No HSM
Extr: Lower extremities with decreased/thinner
Pulses: Fem   DP    ___  
RLE     2+    mono  tri
LLE     1+    tri   tri

 
Pertinent Results:
___ 08:00PM   ___ PTT-27.4 ___
___ 08:00PM   PLT COUNT-281
___ 08:00PM   WBC-7.9 RBC-3.49* HGB-10.1* HCT-30.8* MCV-88 
MCH-28.8 MCHC-32.7 RDW-14.6
___ 08:00PM   CALCIUM-8.7 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 08:00PM   estGFR-Using this
___ 08:00PM   GLUCOSE-259* UREA N-74* CREAT-2.4* SODIUM-136 
POTASSIUM-4.8 CHLORIDE-103 TOTAL CO2-22 ANION GAP-16
___ 09:19PM URINE  ___ 09:19PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 09:19PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-250 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 09:19PM URINE  COLOR-Yellow APPEAR-Clear SP ___
Admitted pre-angio for heparin gtt and hydration. Pre-op'ed and 
consented for procedure. Heparin drip and bicarb IV given. 
Mucomyst 2 doses done prior to angio. Vitals stable. No acute 
issues

___
Underwent Angiogram without complications. Aplasty Lt EIA, ___ 
___, mid ___, distal ___ into BK pop (runoff via AT 
into DP, collateral from peroneal into ___. Vital signs stable 
post-procedure. Transferred to floor

___
Stable. DC home. Labs stable. Coumadin DC'ed. Patient be on 
plavix for lifetime.
 
Medications on Admission:
asa 81', lipitor 40', avapro 300', celexa 20', metoprolol 25',
lasix 40', levothyroxine 112', calcitriol 0.25 4d/wk, coumadin
3', humalog sliding scale, lantus 22'

 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Atorvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Irbesartan 300 mg Tablet Sig: One (1) Tablet PO daily ().  
4. Metoprolol Tartrate 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Levothyroxine 112 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO 4X/WEEK 
(4 times a week).  
7. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
for 1 months.
Disp:*90 Tablet(s)* Refills:*4*
9. Percocet ___ mg Tablet Sig: ___ Tablets PO every ___ hours 
as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
10. Lantus 100 unit/mL Solution Sig: 22 units  Subcutaneous once 
a day: Resume Home blood sugar monitoring, Lantus dose and 
Humalog sliding scale.  
11. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ female s/p redo left femoral to below-knee popliteal 
artery bypass graft ___ w/ high-grade stensosis of Left vein 
graft
.
___ Angio: Aplasty Lt EIA, ___, mid ___, distal ___ 
___ into BK pop (runoff via AT into DP, collateral from 
peroneal into ___
.
P
M
H
:
H
y
p
e
r
l
i
p
i
d
e
m
i
a
,
H
ypothyroidism,Hyperkalemia,CRI,Retinopathy,Arthritis,Depression, 
HTN, S/P TIA ___, CAD, PVD, DM
.
PSH: B/L CEA, s/p CABG x 3(LIMA-LAD,SVG-PDA, SVG-OM)96, s/p left 
femoral to above knee popliteal bypass in ___ with redo s/p 
left femoral to below-knee popliteal artery bypass graft ___

 
Discharge Condition:
Good
You are no longer on Coumadin. You will now be taking plavix 
everyday.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery
Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 81mg once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___